US08232294B2
Step 1) 1-((tetrahydro-2H-pyran-2-yloxy)methyl)cyclopropyl benzoate
To a mixture of 1-((tetrahydro-2H-pyran-2-yloxy)methyl)cyclopropanol (1.6 g, 9.3 mmol) and benzoic acid (1.25 g, 11.16 mmol, Shanghai Haiqu chemical Ltd.) in 50 mL of CH2Cl2 was added DMAP (227 mg, 1.86 mmol, Shanghai Haiqu chemical Ltd.) and EDCI (2.73 g, 14.25 mmol, Shanghai Haiqu chemical Ltd.) at rt. The reaction mixture was stirred at rt overnight, then concentrated and purified by a silica gel column chromatography (20:1 (v/v) petroleum ether/EtOAc)) to afford the title compound as colorless oil (1.8 g, 70%).

reactant | 1-((tetrahydro-2H-pyran-2-yloxy)methyl)cyclopropanol | 9.3 mmol, 1.6 g | O1C(CCCC1)OCC1(CC1)O | C9H16O3
reactant | benzoic acid | 11.16 mmol, 1.25 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | EDCI | 14.25 mmol, 2.73 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.86 mmol, 227 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-((tetrahydro-2H-pyran-2-yloxy)methyl)cyclopropyl benzoate | 1.8 g, 70% | C(C1=CC=CC=C1)(=O)OC1(CC1)COC1OCCCC1 | C16H20O4
